US07399759B2
1-Ethyl-3-(4-pyridyl)-2-imidazolidinone N-oxide
1-Ethyl-3-(4-pyridyl)-2-imidazolidinone (0.71 g, 3.7 mmol) and 3-chloroperbenzoic acid (77%, 1.67 g, 7.4 mmol) were dissolved in ethyl acetate (20 ml), and the mixture was stirred at room temperature for 40 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with methanol-ethyl acetate (2:3, v/v) were collected and concentrated to give the titled compound (0.57 g, 73%) as white crystals.

reactant | 1-Ethyl-3-(4-pyridyl)-2-imidazolidinone | 3.7 mmol, 0.71 g | C(C)N1C(N(CC1)C1=CC=NC=C1)=O | C10H13N3O
reactant | 3-chloroperbenzoic acid | 7.4 mmol, 1.67 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-Ethyl-3-(4-pyridyl)-2-imidazolidinone N-oxide | 0.57 g, 73% | C(C)[N+]1(C(N(CC1)C1=CC=NC=C1)=O)[O-] | C10H13N3O2
